US08304556B2
B-29a) N′-(1-Cyclopropyl-piperidin-4-ylidene)-hydrazinecarboxylic acid tert-butyl ester
A mixture of 1-cyclopropyl-4-piperidon (10.0 g. 71.8 mmol) and tert-butylcarbazate (9.50 g, 71.8 mmol) in 25 mL THF is stirred for 3 h at RT and then concentrated in vacuo. Yield: 19.2 g.

reactant | 1-cyclopropyl-4-piperidon | 71.8 mmol, 10.0 g | C1(CC1)N1CCC(CC1)=O | C8H13NO
reactant | tert-butylcarbazate | 71.8 mmol, 9.50 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N′-(1-Cyclopropyl-piperidin-4-ylidene)-hydrazinecarboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)NN=C1CCN(CC1)C1CC1 | C13H23N3O2
